US07465730B2
A solution of 1,1,2,2-tetraacetylethane (250 mg, 1.26 mmol) and 4-trifluoromethoxy aniline (170 μL, 1.26 mmol) was refluxed in EtOH (5 mL)/AcOH (1%) for 48 h. Hydrazine (100 μL, 3.15 mmol) was added and the mixture was refluxed for 1 h. The reaction mixture was poured into ice water (50 mL). The resulting precipitate was filtered and dried under vacuum to afford 1,4,5,7-tetramethyl-6-[4-(trifluoromethoxy)phenyl]-6H-pyrrolo[3,4-d]pyridazine as a tan solid: 1H NMR (CDCl3, 500 MHz) δ 7.42 (d, 2H), 7.25 (d, 2H), 2.81 (s, 6H), 2.41 (s, 6H); MS (ESI) 336 (M+H)+.

reactant | 1,1,2,2-tetraacetylethane | 1.26 mmol, 250 mg | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | 4-trifluoromethoxy aniline | 1.26 mmol, 170 μL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | AcOH | CC(=O)O | C2H4O2
reactant | Hydrazine | 3.15 mmol, 100 μL | NN | H4N2
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1,4,5,7-tetramethyl-6-[4-(trifluoromethoxy)phenyl]-6H-pyrrolo[3,4-d]pyridazine | CC1=NN=C(C=2C1=C(N(C2C)C2=CC=C(C=C2)OC(F)(F)F)C)C | C17H16F3N3O
